US06815447B2
3-(3-Fluorophenyl)-3-oxo-propionic acid ethyl ester:
A 60%-in-oil dispersion of sodium hydride, 21.7 g (0.543 moles), was placed in a three-neck 2 L round-bottom flask equipped with an addition funnel, nitrogen inlet, magnetic stirrer, heating mantle, thermocouple and condenser with dry hexane (1 L). The resulting suspension was stirred for 15 minutes, stirring was halted and the solids were allowed to settle. The clear supernatant containing the hexane and dissolved oil was then removed via a cannula. Diethyl carbonate (1 L) was added and the suspension was heated to 120° C. To this suspension was cautiously added dropwise, over 40 minutes, a solution of 100 g (0.494 moles) of m-fluoro acetophenone dissolved in 250 mL of diethyl carbonate. As addition proceeded a reaction initiated, hydrogen was evolved and the color changed to tan. After the acetophenone derivative addition was complete, the reaction was heated for 1 additional hour. The reaction mixture was cooled and was poured into a 2 L separatory funnel. The diethyl carbonate layer was twice washed with 10% acetic acid solution and then purified by vacuum distillation (bp 114-117° C. at 0.8-0.9 mm Hg) in 91% yield.

reactant | sodium hydride | [H-].[Na+]
reactant | m-fluoro acetophenone | 0.494 moles, 100 g | FC=1C=C(C=CC1)C(C)=O | C8H7FO
reactant | hydrogen | [H][H] | H2
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | diethyl carbonate | 250 mL | C(OCC)(OCC)=O | C5H10O3
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 1 L | CCCCCC | C6H14
product | 3-(3-Fluorophenyl)-3-oxo-propionic acid ethyl ester | 91% yield | C(C)OC(CC(=O)C1=CC(=CC=C1)F)=O | C11H11FO3
